US05631373
5-Amino-6-nitroindan.
A mixture of 259 mg (1.16 mmol) of 5-acetamido-6-nitroindan in 4 mL of 2N HCl was heated at 85° C. for 9 h and cooled to room temperature. The solid precipitate was filtered, washed with water, and dried to leave 201 mg (97%) of a crystalline yellow solid. 1H NMR (CDCl3), 2.068 (m, 2), 2.843 (m, 4), 6.00 (sb, 2), 6.650 (s, 1), 7.942 (s, 1).

reactant | 5-acetamido-6-nitroindan | 1.16 mmol, 259 mg | C(C)(=O)NC=1C=C2CCCC2=CC1[N+](=O)[O-] | C11H12N2O3
solvent | HCl | 2N, 4 mL | Cl | ClH
product | 5-Amino-6-nitroindan | 201 mg, 97% | NC=1C=C2CCCC2=CC1[N+](=O)[O-] | C9H10N2O2
